US05994350
b) N-tert-amyl-3-methoxy-4-aminobenzamide
In the same way, from the compound N-tert-butyl-3-methoxy-4-nitrobenzamide, N-tert-butyl-3-methoxy-4-aminobenzamide is prepared; M.p.=160° C.

reactant | N-tert-butyl-3-methoxy-4-nitrobenzamide | C(C)(C)(C)NC(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C12H16N2O4
reactant | N-tert-butyl-3-methoxy-4-aminobenzamide | C(C)(C)(C)NC(C1=CC(=C(C=C1)N)OC)=O | C12H18N2O2
product | N-tert-amyl-3-methoxy-4-aminobenzamide | C(C)(C)(CC)NC(C1=CC(=C(C=C1)N)OC)=O | C13H20N2O2
